US07829560B2
To a solution of [4-(2-morpholin-4-ylethoxy)-1-naphthyl]amine (0.60 g, 2.2 mmol) in DMF (2 ml) is added 3-fluoro-5-(4-methylpiperidin-1-yl)benzoic acid (0.63 g, 2.64 mmol), prepared from 4-methylpiperidine according to conditions described in general procedure E, HBTU (1.25 g, 3.3 mmol) and diisopropylamine (1.15 ml, 6.6 mmol). This mixture is stirred at room temperature overnight and diluted with CH2Cl2 (5 ml), washed with 0.05 N NaOH, dried over Na2SO4 and concentrated. The residue is purified by column chromatography on silica gel (90% EtOAc in hexane) to give 3-fluoro-5-(4-methylpiperidin-1-yl)-N-[4-(2-morpholin-4-ylethoxy)-1-naphthyl]benzamide as a white solid (0.53 g). Mp: 116-118° C.; 1H NMR (300 MHz, DMSO-d6) δ 0.91 (d, 6.3 Hz, 3H), 1.15-1.25 (m, 2H), 1.67 (d, J=12 Hz, 2H), 2.55 (bs, 4H), 2.74 (t, J=12.3 Hz, 2H), 2.86 (s, 2H), 3.59 (t, J=4.5 Hz, 4H), 3.82 (d, J=12.9 Hz, 2H), 4.29 (t, J=5.7 Hz, 2H), 6.93 (d, J=12.6 Hz, 1H), 7.00 (d, J=8.1Hz, 1H), 7.12 (d, J=8.7 Hz, 1H), 7.37-7.43 (m, 2H), 7.51-7.55 (m, 2H), 7.81-7.84 (m, 1H), 8.17-8.20 (m, 1H), 10.21 (s, 1H); MS 492 (M+1).

reactant | [4-(2-morpholin-4-ylethoxy)-1-naphthyl]amine | 2.2 mmol, 0.60 g | N1(CCOCC1)CCOC1=CC=C(C2=CC=CC=C12)N | C16H20N2O2
reactant | 3-fluoro-5-(4-methylpiperidin-1-yl)benzoic acid | 2.64 mmol, 0.63 g | FC=1C=C(C(=O)O)C=C(C1)N1CCC(CC1)C | C13H16FNO2
reactant | 4-methylpiperidine | CC1CCNCC1 | C6H13N
reactant | HBTU | 3.3 mmol, 1.25 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | diisopropylamine | 6.6 mmol, 1.15 ml | C(C)(C)NC(C)C | C6H15N
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
product | 3-fluoro-5-(4-methylpiperidin-1-yl)-N-[4-(2-morpholin-4-ylethoxy)-1-naphthyl]benzamide | 0.53 g | FC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OCCN2CCOCC2)C=C(C1)N1CCC(CC1)C | C29H34FN3O3
